US07105544B2
2-(4-CHLOROPHENYL)-N-(3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)PROPANAMIDE
Example 37 was prepared from 2-(4-chlorophenyl)propanoic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide according to the procedures described in Scheme 9: 1H NMR (400 MHz, CDCl3) δ 7.61 (d, 2H, J=6.5 Hz), 7.26 (s, 6H), 7.05–6.99 (m, 1H), 6.94 (d, 1H, J=7.1 Hz), 3.37–3.25 (m, 2H), 2.89 (d, 1H, J=9.6 Hz), 2.57–2.43 (m, 2H), 2.37 (t, 2H, J=6.1 Hz), 2.22–2.16 (m, 2H), 2.00–1.91 (m, 2H), 1.89–1.77 (m, 2H), 1.69–1.58 (m, 4H), 1.48 (d, 3H, J=7.0 Hz), 1.24 (d, 6H, J=7.0 Hz); ESMS m/e: 470.3 (M+H)+.

reactant | 2-(4-chlorophenyl)propanoic acid | ClC1=CC=C(C=C1)C(C(=O)O)C | C9H9ClO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C18H29N3O
product | 2-(4-CHLOROPHENYL)-N-(3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)PROPANAMIDE | ClC1=CC=C(C=C1)C(C(=O)NCCCN1CCC(CC1)C1=CC(=CC=C1)NC(C(C)C)=O)C | C27H36ClN3O2
